US08445674B2
B) rac-(1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(1-hydroxymethyl-3-oxo-3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one)
A cooled (0° C.) solution of 0.150 g (0.29 mmol) of 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-oxo-4-piperidin-1-yl-butyric acid methyl ester in 3.7 ml of EtOH was treated with 0.013 g (0.59 mmol) of LiBH4 (in 3 portions during 48 h until to the end of the reaction). The mixture was stirred at RT for 48 h, cooled to 0° C. and aqueous 10% KHSO4 solution was slowly added. The mixture was partitioned between aqueous saturated NaHCO3/EtOAc (3×). The organic phases were dried (Na2SO4) and evaporated to give 0.136 g (96%) of the titled compound as white foam. MS: 482.2 (MH+, 2Cl).

reactant | 2-{4-[(E)-3-(3,4-dichloro-phenyl)-acryloyl]-7-oxo-[1,4]diazepan-1-yl}-4-oxo-4-piperidin-1-yl-butyric acid methyl ester | 0.29 mmol, 0.150 g | COC(C(CC(N1CCCCC1)=O)N1CCN(CCC1=O)C(\C=C\C1=CC(=C(C=C1)Cl)Cl)=O)=O | C24H29Cl2N3O5
reactant | LiBH4 | 0.59 mmol, 0.013 g | [Li+].[BH4-]
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | EtOH | 3.7 ml | CCO | C2H6O
product | rac-(1-[(E)-3-(3,4-Dichloro-phenyl)-acryloyl]-4-(1-hydroxymethyl-3-oxo-3-piperidin-1-yl-propyl)-[1,4]diazepan-5-one) | 0.136 g, 96% | ClC=1C=C(C=CC1Cl)/C=C/C(=O)N1CCN(C(CC1)=O)C(CC(N1CCCCC1)=O)CO | C23H29Cl2N3O4
